US05733905
N-[4-(1-Methyl-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepin-6(5H)-ylcarbonyl)phenyl]-2,4 dichlorobenzamide
To a mixture of 5 mmol of 5,6-dihydro-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine in 20 ml of dichloromethane is added 5.5 mmol of 4-[(2,4-dichlorobenzoyl)amino]benzoyl chloride and 7.5 mmol of triethylamine. The mixture is stirred at room temperature for 8 hours and then washed with water, aqueous NaHCO3 and brine. The organic layer is dried (Na2SO4) and the solvent removed in vacuo to give a solid. The solid is purified by chromatography on silica gel to give the desired product as a solid.

reactant | 5,6-dihydro-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepine | 5 mmol | CC1=NN=C2N1C1=C(NCC2)C=CC=C1 | C11H12N4
reactant | 4-[(2,4-dichlorobenzoyl)amino]benzoyl chloride | 5.5 mmol | ClC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC(=C1)Cl | C14H8Cl3NO2
reactant | triethylamine | 7.5 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[4-(1-Methyl-4H-[1,2,4]triazolo[4,3-a][1,5]benzodiazepin-6(5H)-ylcarbonyl)phenyl]-2,4 dichlorobenzamide | CC1=NN=C2N1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(C2=C(C=C(C=C2)Cl)Cl)=O)C=CC=C1 | C25H19Cl2N5O2
